US09169254B2
Methylmagnesium bromide (1 M solution in THF, 0.526 ml, 0.526 mmol) was added dropwise to 4-(2-oxo-ethyl)-cyclohexanecarboxylic acid benzyl ester (114 mg, 0.439 mmol) in THF (2.2 mL) at −78° C., and the mixture was stirred at the same temperature for 30 minutes. Water was added to the reaction mixture at the same temperature and extracted with ethyl acetate. The organic layer was sequentially washed with a saturated aqueous ammonium chloride solution, water and saturated brine and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 4-(2-hydroxy-propyl)-cyclohexanecarboxylic acid benzyl ester (80.7 mg, 67%).

reactant | Methylmagnesium bromide | 0.526 mmol, 1 M, 0.526 ml | C[Mg]Br
reactant | 4-(2-oxo-ethyl)-cyclohexanecarboxylic acid benzyl ester | 0.439 mmol, 114 mg | C(C1=CC=CC=C1)OC(=O)C1CCC(CC1)CC=O | C16H20O3
reactant | Water | O | H2O
solvent | THF | 2.2 mL | C1CCOC1 | C4H8O
product | 4-(2-hydroxy-propyl)-cyclohexanecarboxylic acid benzyl ester | 80.7 mg, 67% | C(C1=CC=CC=C1)OC(=O)C1CCC(CC1)CC(C)O | C17H24O3
